US07790709B2
Preparation of (E)-N-(4-Methanesulfonyl-benzyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylamide
According to the procedure of Example 1 (a), except substituting (4-methanesulfonyl-benzyl)methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.400 g, 71%) was prepared as an off-white solid and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 10.6-10.65 (m, 1H), 8.38-8.34 (m, 1H), 8.10-8.04 (m, 1H), 7.95-7.89 (m, 2H), 7.57-7.46 (m, 3H), 7.28-7.23 (m, 1H), 4.96-4.72 (m, 2H), 3.20-3.16 (m, 5H), 2.94-2.84 (m, 3H) 2.56-2.49 (m, 2H); MS (APCI) m/e 400 (M+H)+.

reactant | (4-methanesulfonyl-benzyl)methylamine | CS(=O)(=O)C1=CC=C(CCN)C=C1 | C9H13NO2S
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3yl)acrylic acid hydrochloride | Cl.O=C1CCC=2C=C(C=NC2N1)/C=C/C(=O)O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-(4-Methanesulfonyl-benzyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylamide | 0.400 g, 71% | CS(=O)(=O)C1=CC=C(CN(C(\C=C\C=2C=NC=3NC(CCC3C2)=O)=O)C)C=C1 | C20H21N3O4S
